US05389620
To a THF (20 ml) solution of pyridine-2,3-dicarboxylic acid anhydride (1.92 g, 12.9 mmol) was added a THF solution of 2-benzyloxy-4-methoxyphenyllithium (10 ml), which was prepared from 2-benzyloxy-4-methoxyphenyl bromide (3.77 g, 12.9 mmol) and BuLi (1.6M hexane solution, 8.85 ml, 14.2 mmol) at -78° C., at -78° C. over a period of 5 min. The temperature of the mixture was raised to room temperature and the mixture was additionally stirred at the same temperature for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between 1N HCl and AcOEt. The organic layer was washed with 1N HCl dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was dissolved in 1N NaOH and the solution was washed with AcOEt and chloroform. The aqueous layer was acidified with conc. HCl and extracted with AcOEt. The organic layer was washed with 1N HCl and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The residual solid was recrystallized from is chloroform-ether to give 2-(2-benzyloxy-4-methoxyphenylcarbonyl)-3-pyridine carboxylic acid (2,03 g) as a colorless solid.

reactant | pyridine-2,3-dicarboxylic acid anhydride | 12.9 mmol, 1.92 g | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
reactant | 2-benzyloxy-4-methoxyphenyllithium | 10 ml | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)[Li]
reactant | 2-benzyloxy-4-methoxyphenyl bromide | 12.9 mmol, 3.77 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)Br | C14H13BrO2
reactant | BuLi | 14.2 mmol, 1.6M, 8.85 ml | [Li]CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(2-benzyloxy-4-methoxyphenylcarbonyl)-3-pyridine carboxylic acid | 2,03 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC)C(=O)C1=NC=CC=C1C(=O)O | C21H17NO5
